US07741326B2
To a solution of 2,2,2-trifluoro-1-[4-(1H-indol-7-yl)-piperazin-1-yl]-ethanone (462 mg, 1.55 mmol) in CH2ClCH2Cl (20 ml) were added benzoic anhydride (703 mg, 3.1 mmol) and AlCl3 (414 mg, 3.1 mmol). After stirring at 90° C. for 30 minutes the reaction mixture was allowed to cool to room temperature and poured into a mixture of EtOAc/H2O. The organic layer was separated and washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo and the resulting residue was purified by flash chromatography to give 1-[4-(3-Benzoyl-1H-indol-7-yl)-piperazin-1-yl]-2,2,2-trifluoro-ethanone as a yellow solid (475 mg, 76%). MS: (M+H)+ 402.2.

reactant | 2,2,2-trifluoro-1-[4-(1H-indol-7-yl)-piperazin-1-yl]-ethanone | 1.55 mmol, 462 mg | FC(C(=O)N1CCN(CC1)C=1C=CC=C2C=CNC12)(F)F | C14H14F3N3O
reactant | benzoic anhydride | 3.1 mmol, 703 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | AlCl3 | 3.1 mmol, 414 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | EtOAc H2O | CCOC(=O)C.O
product | 1-[4-(3-Benzoyl-1H-indol-7-yl)-piperazin-1-yl]-2,2,2-trifluoro-ethanone | 475 mg, 76% | C(C1=CC=CC=C1)(=O)C1=CNC2=C(C=CC=C12)N1CCN(CC1)C(C(F)(F)F)=O | C21H18F3N3O2
